* Subcircuit lm_741
.subckt lm_741 net-_q7-pad3_ net-_q2-pad2_ net-_q1-pad2_ net-_q12-pad3_ net-_q8-pad3_ net-_q20-pad3_ net-_q10-pad3_ ? 
* c:\users\malli\esim\src\subcircuitlibrary\lm_741\lm_741.cir
.include example/esim/sumit__inout.com_iitk/Inverting_Amplifier/npn_1.lib
.include example/esim/sumit__inout.com_iitk/Inverting_Amplifier/pnp_1.lib
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ npn_1
q2 net-_q1-pad1_ net-_q2-pad2_ net-_q2-pad3_ npn_1
q6 net-_q3-pad2_ net-_q13-pad1_ net-_q1-pad3_ pnp_1
q5 net-_c1-pad2_ net-_q13-pad1_ net-_q2-pad3_ pnp_1
q3 net-_q10-pad3_ net-_q3-pad2_ net-_q3-pad3_ npn_1
q4 net-_q1-pad1_ net-_q1-pad1_ net-_q10-pad3_ pnp_1
q9 net-_q13-pad1_ net-_q1-pad1_ net-_q10-pad3_ pnp_1
q8 net-_c1-pad2_ net-_q3-pad3_ net-_q8-pad3_ npn_1
q7 net-_q3-pad2_ net-_q3-pad3_ net-_q7-pad3_ npn_1
r1  net-_q7-pad3_ net-_q12-pad3_ 1k
r2  net-_q3-pad3_ net-_q12-pad3_ 50k
r3  net-_q8-pad3_ net-_q12-pad3_ 1k
q12 net-_q12-pad1_ net-_q12-pad1_ net-_q12-pad3_ npn_1
q13 net-_q13-pad1_ net-_q12-pad1_ net-_q13-pad3_ npn_1
r4  net-_q13-pad3_ net-_q12-pad3_ 5k
r11  net-_q10-pad1_ net-_q12-pad1_ 39k
q10 net-_q10-pad1_ net-_q10-pad1_ net-_q10-pad3_ pnp_1
q11 net-_c1-pad1_ net-_q10-pad1_ net-_q10-pad3_ pnp_1
q14 net-_c1-pad1_ net-_q14-pad2_ net-_q14-pad3_ npn_1
r8  net-_c1-pad1_ net-_q14-pad2_ 4.5k
r7  net-_q14-pad3_ net-_q14-pad2_ 7.5k
c1  net-_c1-pad1_ net-_c1-pad2_ 30p
q16 net-_q14-pad3_ net-_c1-pad2_ net-_q15-pad2_ npn_1
q15 net-_q14-pad3_ net-_q15-pad2_ net-_q15-pad3_ npn_1
r5  net-_q15-pad2_ net-_q12-pad3_ 50k
r6  net-_q15-pad3_ net-_q12-pad3_ 50
q17 net-_c1-pad2_ net-_q15-pad3_ net-_q12-pad3_ npn_1
q18 net-_q10-pad3_ net-_c1-pad1_ net-_q18-pad3_ npn_1
q20 net-_c1-pad1_ net-_q18-pad3_ net-_q20-pad3_ npn_1
r9  net-_q18-pad3_ net-_q20-pad3_ 25
r10  net-_q20-pad3_ net-_q19-pad3_ 50
q19 net-_q12-pad3_ net-_q14-pad3_ net-_q19-pad3_ pnp_1
* Control Statements

.ends lm_741